US05098921
1-(2-Nitro-1-imidazolyl)-3-(2-bromo-2,3-dimethyl-3-butylamino)-2-propanol
In a manner analogous to that described in Example 2(b) there was obtained following condensation of 1-(2-nitro-1-imidazolyl)-3-(2,2,3,3-tetramethyl-1-aziridino)-2-propanol with aqueous hydrobromic acid, 1-(2-nitro-1-imidazolyl)-3-(2-bromo-2,3-dimethyl-3-butylamino)-2-propanol hydrobromide as pale yellow prisms, m.p. 163°-164° C. (dec.) after evaporation to low volume and recrystallisation from aqueous acetone; yield 56%.

reactant | hydrobromic acid | Br | BrH
reactant | 1-(2-nitro-1-imidazolyl)-3-(2-bromo-2,3-dimethyl-3-butylamino)-2-propanol hydrobromide | Br.[N+](=O)([O-])C=1N(C=CN1)CC(CNC(C(C)(C)Br)(C)C)O
product | 1-(2-Nitro-1-imidazolyl)-3-(2-bromo-2,3-dimethyl-3-butylamino)-2-propanol | yield 56% | [N+](=O)([O-])C=1N(C=CN1)CC(CNC(C(C)(C)Br)(C)C)O | C12H21BrN4O3
